US08420647B2
N-[4-Chloro-2-(cyclopropyl-methyl-amino)-5-fluoro-phenyl]-4-(2,5-dichloro-phenoxy)-N-methyl-nicotinamide
The title compound was prepared in analogy to Example 12, from N-[4-chloro-2-(cyclopropyl-methyl-amino)-5-fluoro-phenyl]-4-(2,5-dichloro-phenoxy)-nicotinamide and using a gradient of n-heptane:ethyl acetate (100:0 to 0:100) for the chromatographic purification. Colorless solid (79%). MS (ESI): m/z=496.058 [M+H]+.

reactant | N-[4-chloro-2-(cyclopropyl-methyl-amino)-5-fluoro-phenyl]-4-(2,5-dichloro-phenoxy)-nicotinamide | ClC1=CC(=C(C=C1F)NC(C1=CN=CC=C1OC1=C(C=CC(=C1)Cl)Cl)=O)N(C)C1CC1 | C22H17Cl3FN3O2
reactant | n-heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
product | N-[4-Chloro-2-(cyclopropyl-methyl-amino)-5-fluoro-phenyl]-4-(2,5-dichloro-phenoxy)-N-methyl-nicotinamide | ClC1=CC(=C(C=C1F)N(C(C1=CN=CC=C1OC1=C(C=CC(=C1)Cl)Cl)=O)C)N(C)C1CC1 | C23H19Cl3FN3O2
